US06448255B1
3-Oxo-1-phenyl-1,3-dihydro-2-benzofuran-1-carboxamide
A mixture of 2-benzoylbenzoic acid (75 g), potassium cyanide (35 g), and glacial acetic acid (175 mL) was heated at 115-125° C. in a sealed pressure bottle for 70 h. After cooling to ambient temperature, the precipitated solid was collected by filtration, washed with water and ethanol then crystallized from ethanol to give the title compound (45 g), m. p. 225-227° C.

reactant | 2-benzoylbenzoic acid | 75 g | C(C1=CC=CC=C1)(=O)C1=C(C(=O)O)C=CC=C1 | C14H10O3
reactant | potassium cyanide | 35 g | [C-]#N.[K+]
reactant | acetic acid | 175 mL | C(C)(=O)O | C2H4O2
product | 3-Oxo-1-phenyl-1,3-dihydro-2-benzofuran-1-carboxamide | 45 g | O=C1OC(C2=C1C=CC=C2)(C(=O)N)C2=CC=CC=C2 | C15H11NO3
